US08613914B2
(5R,8S)-7-{(S)-2-[(S)-2-Amino-2-(1-methyl-cyclohexyl)-acetylamino]-3,3-dimethyl-butyryl}-10,10-dimethyl-7-aza-dispiro[3.0.4.1]decane-8-carboxylic acid [(1R,2S)-1-(pyrrolidine-1-sulfonylaminocarbonyl)-2-vinyl-cyclopropyl]-amide
A mixture of [(S)—((S)-1-{(5R,8S)-10,10-Dimethyl-8-[(1R,2S)-1-(pyrrolidine-1-sulfonylaminocarbonyl)-2-vinyl-cyclopropylcarbamoyl]-7-aza-dispiro[3.0.4.1]decane-7-carbonyl}-2,2-dimethyl-propylcarbamoyl)-(1-methyl-cyclohexyl)-methyl]-carbamic acid tert-butyl ester (0.219 g; 0.27 mmol) and 2.0 mL HCl (4 M in dioxane) in 2 mL dioxane was stirred at ambient temperature for 2 h. The mixture was concentrated under reduced pressure and co-evaporated 2 times with DCM to yield the title compound which was used in the next step without further purification. LC-MS (method E): Rt=1.64 min; M/z=717 [M+]; HPLC (method A3): Rt=4.82 min

reactant | [(S)—((S)-1-{(5R,8S)-10,10-Dimethyl-8-[(1R,2S)-1-(pyrrolidine-1-sulfonylaminocarbonyl)-2-vinyl-cyclopropylcarbamoyl]-7-aza-dispiro[3.0.4.1]decane-7-carbonyl}-2,2-dimethyl-propylcarbamoyl)-(1-methyl-cyclohexyl)-methyl]-carbamic acid tert-butyl ester | 0.27 mmol, 0.219 g | C(C)(C)(C)OC(N[C@@H](C1(CCCCC1)C)C(N[C@@H](C(C)(C)C)C(=O)N1C[C@]2(C3(CCC3)C2(C)C)C[C@H]1C(N[C@]1([C@@H](C1)C=C)C(=O)NS(=O)(=O)N1CCCC1)=O)=O)=O | C42H68N6O8S
reactant | HCl | 4 M, 2.0 mL | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (5R,8S)-7-{(S)-2-[(S)-2-Amino-2-(1-methyl-cyclohexyl)-acetylamino]-3,3-dimethyl-butyryl}-10,10-dimethyl-7-aza-dispiro[3.0.4.1]decane-8-carboxylic acid [(1R,2S)-1-(pyrrolidine-1-sulfonylaminocarbonyl)-2-vinyl-cyclopropyl]-amide | N1(CCCC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1N(C[C@]2(C3(CCC3)C2(C)C)C1)C([C@H](C(C)(C)C)NC([C@H](C1(CCCCC1)C)N)=O)=O | C37H60N6O6S
